US08242145B2
Step 1: {3-[4-(3,5-Dimethyl-isoxazol-4-yl)-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 19, Step 3, using the following starting materials: {3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-phenyl}-acetic acid ethyl ester and 4-bromo-3,5-dimethylisoxazole.

reactant | {3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C33H38BNO7
reactant | 4-bromo-3,5-dimethylisoxazole | BrC=1C(=NOC1C)C | C5H6BrNO
product | {3-[4-(3,5-Dimethyl-isoxazol-4-yl)-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C=1C(=NOC1C)C)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C32H32N2O6
